* C:\Users\jmstr\OneDrive - The University of Auckland\University\Year 3\ELECTENG 311\Charger.asc
* Generated by LTspice 24.1.9 for Windows.
V1 5V 0 5
V2 2V5 0 2.5
V3 3V5 0 3.5
V5 Ilimit 0 0.6
M1 Drain N001 5V 5V Si4433DY
X§U_CV N003 2V5 5V 0 CV_Out level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R1 N003 0 10k
R2 Drain N003 4k
R4 CV_Out 2V5 10k
R5 N002 N001 100
D2 CV_Out N002 D
R6 0 N002 10k
V4 1V 0 1
.model D D
.lib C:\Users\jmstr\AppData\Local\LTspice\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\jmstr\AppData\Local\LTspice\lib\cmp\standard.mos
.tran 100m
.lib UniversalOpAmp2.lib
.backanno
.end
